simulator lang=spectre
global 0

ahdl_include "./dut/programmable_gain_amplifier.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=8n width=4n delay=2n rise=80p fall=80p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2.2n 0.9 2.3n 0 86n 0]
Vgain (gain_sel 0) vsource type=pwl wave=[ \
0 0 \
21n 0 21.2n 0.9 \
49n 0.9 49.2n 0 \
69n 0 69.2n 0.9 \
86n 0.9 \
]
Vvin (vin 0) vsource type=pwl wave=[ \
0 0.45 \
18n 0.42 \
23n 0.74 \
35n 0.74 \
36n 0.18 \
50n 0.18 \
54n 0.58 \
68n 0.58 \
72n 0.84 \
84n 0.84 \
86n 0.45 \
]
XDUT (clk rst gain_sel vin out metric) programmable_gain_amplifier

tran tran stop=86n maxstep=250p
save clk rst gain_sel vin out metric
